US07049342B2
Ethyl 2-ethyl-3-[4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]ethoxy]phenyl]acrylate
Under an argon atmosphere, stirring and cooling with ice, a solution of triethyl 2-phosphonobutyrate (555 mg, 2.20 mmol) in anhydrous tetrahydrofuran (5 mL) was added dropwise to a solution of potassium tert-butoxide (250 mg, 2.23 mmol) in anhydrous tetrahydrofuran (10 mL), and then the mixture was stirred for 20 minutes. Following this, a solution of 4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]ethoxy]benzaldehyde (650 mg, 2.00 mmol) in anhydrous tetrahydrofuran (5 mL) was added dropwise and then the mixture was stirred for 1 hour under cooling with ice and for 4 hours at room temperature. Cooled 0.5 mol/L hydrochloric acid (30 mL) was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and then concentrated. The residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=6:1 v/v) to afford 842 mg (99%) of the title compound as a colorless oily product.

reactant | triethyl 2-phosphonobutyrate | 2.20 mmol, 555 mg | CCC(C(=O)OCC)P(=O)(OCC)OCC | C10H21O5P
reactant | potassium tert-butoxide | 2.23 mmol, 250 mg | CC(C)([O-])C.[K+]
reactant | 4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]ethoxy]benzaldehyde | 2.00 mmol, 650 mg | COC1=C(C=C(C=O)C=C1)OCCC1=CC=C(C=C1)C(F)(F)F | C17H15F3O3
reactant | hydrochloric acid | 0.5 mol/L, 30 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Ethyl 2-ethyl-3-[4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]ethoxy]phenyl]acrylate | 842 mg, 99% | C(C)C(C(=O)OCC)=CC1=CC(=C(C=C1)OC)OCCC1=CC=C(C=C1)C(F)(F)F | C23H25F3O4
